US06706707B2
a) 3-Cyclopropyl-5-(3,5-dimethyl-3H-imidazol-4-yl)-[1,2,4]oxadiazole
The title compound, off-white solid, m.p. 88° C. and MS: m/e=204.3 (M+), was prepared from 3,5-dimethyl-3H-imidazole-4-carboxylic acid and N-hydroxy-cyclopropane-carboxamidine in accordance with the general procedure of example 12a.

reactant | 3,5-dimethyl-3H-imidazole-4-carboxylic acid | CN1C=NC(=C1C(=O)O)C | C6H8N2O2
reactant | N-hydroxy-cyclopropane-carboxamidine | ONC(=N)C1CC1 | C4H8N2O
product | 3-Cyclopropyl-5-(3,5-dimethyl-3H-imidazol-4-yl)-[1,2,4]oxadiazole | C1(CC1)C1=NOC(=N1)C=1N(C=NC1C)C | C10H12N4O
